US06593355B2
c. 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one
Prepared analogously to Example 4g from 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-cyano-1-pyrrolidino-propan-1-one and tributyl tin azide.

reactant | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-cyano-1-pyrrolidino-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CC#N)C)[N+](=O)[O-])C | C23H26N4O3
reactant | tributyl tin azide | C(CCC)[Sn](CCCC)(CCCC)N=[N+]=[N-]
product | 2-[4-(N-benzyl-methylamino)-3-nitro-phenyl]-2-methyl-3-(1H-tetrazol-5-yl)-1-pyrrolidino-propan-1-one | C(C1=CC=CC=C1)N(C1=C(C=C(C=C1)C(C(=O)N1CCCC1)(CC1=NN=NN1)C)[N+](=O)[O-])C | C23H27N7O3
